* Schematics Netlist *



V_V1         VPOS 0 9
V_V2         0 VNEG 9
V_V3         $N_0001 0 DC 0 AC 0
+SIN 0 1mv 10Hz 0 0 0
X_U1         $N_0001 0 VPOS VNEG $N_0002 0 $N_0003 $N_0004 AD620/AD
R_R1         $N_0004 $N_0003  560  
R_R2         $N_0002 0  100k  
